US04714705
3-Hydroxy-4-isobutyramido-6,7-dimethoxy-1-methylisoquinoline 1/4 hydrate (Compound BO)
4-Amino-3-hydroxy-6,7-dimethoxy-1-methylisoquinoline (BBQ) (1.772 grams, 5 mmol) as the diacetate solvate in 50 ml methylene chloride was treated with 2.5 ml triethylamine (16.5 mmol) for 5 minutes and subsequently with 0.63 ml isobutyryl chloride (6 mmol) with stirring under a nitrogen atmosphere. After 1 hour, the slurry was evaporated to dryness in vacuo and boiled in 50 ml methanol and 5 ml water for 15 minutes. The solid was isolated by filtration, washed successively with methanol and acetone, and then dried in vacuo at 50° C. to provide 0.6 grams of Compound BO (39.4% yield) having a melting point of 292°-294° C. (with decomposition).

reactant | 4-Amino-3-hydroxy-6,7-dimethoxy-1-methylisoquinoline | 5 mmol, 1.772 grams | NC1=C(N=C(C2=CC(=C(C=C12)OC)OC)C)O | C12H14N2O3
reactant | diacetate | CC(=O)CC(=O)O | C4H6O3
reactant | triethylamine | 16.5 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 6 mmol, 0.63 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-4-isobutyramido-6,7-dimethoxy-1-methylisoquinoline | 0.6 grams, 39.4% yield | OC=1N=C(C2=CC(=C(C=C2C1NC(C(C)C)=O)OC)OC)C | C16H20N2O4
